US08466115B2
1-benzhydryl-5′-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-3′H-spiro[azetidine-3,1′-isobenzofuran]-3′-one
To a solution of 1-benzhydryl-3-(2-bromo-4-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)phenyl)azetidin-3-ol (500 mg, 0.7 mmol) in DMF (12 mL) was added Zn(CN)2 (180 mg, 1.5 mmol) and the reaction was degassed with N2 purge. Pd(PPh3)4 (40 mg, 0.04 mmol) was added and the reaction mixture was heated at 150° C. for 15 minutes under microwave irradiation. The reaction mixture was diluted with water, extracted with EtOAc, dried, and concentrated under vacuum. The crude material was chromatographed (40 g Redi-Sep column) eluting from 100% heptane to 50:50 EtOAc:heptane to afford the intermediate (268 mg, 58%) as a glass. 1HNMR (CDCl3) δ ppm: 8.32 (1H), 8.18 (1H), 7.95 (1H), 7.68 (2H), 7.51 (4H), 7.35-7.23 (6H), 4.55 (1H), 4.15 (1H), 3.79-3.69 (3H), 3.60 (2H); m/z (CI) 657 ([M+H]+.

reactant | 1-benzhydryl-3-(2-bromo-4-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)phenyl)azetidin-3-ol | 0.7 mmol, 500 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(O)C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)Br | C32H23BrCl3F3N2O2
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | Zn(CN)2 | 1.5 mmol, 180 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.04 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-benzhydryl-5′-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-3′H-spiro[azetidine-3,1′-isobenzofuran]-3′-one | 268 mg, 58% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC2(OC(C3=CC(=CC=C23)C2=NOC(C2)(C(F)(F)F)C2=CC(=C(C(=C2)Cl)Cl)Cl)=O)C1 | C33H22Cl3F3N2O3
